US07592358B2
16.1d. 2,3-dibromo-5-(4-chlorophenyl)pyridine
A solution of 0.33 g (4.85 mmol) of sodium nitrite in 1.9 mL of water was added at 0° C. with vigorous stirring to a suspension of 1.25 g (4.41 mmol) of 2-bromo-5-(4-chlorophenyl)pyridin-3-ylamine in 9.90 mL (88.16 mmol) of 48% aqueous HBr and 9.90 mL of water and stirred for a further 10 minutes at 0° C. Subsequently a solution of 0.95 g (6.61 mmol) of CuBr in 3.47 mL of 48% aqueous HBr was added and the mixture was stirred for I hour at 60° C. The reaction mixture was diluted with water and exhaustively extracted with EtOAc. The combined organic extracts were washed with saturated aqueous sodium bicarbonate solution and water, dried over magnesium sulfate, and evaporated down in vacuo. The residue was purified by column chromatography (silica gel, PE/DCM 1:1). Yield: 1.00 g (65% of theoretical); C11H6Br2ClN (M=347.433); calc.: molpeak (M+H)+:346/348/350/352 (2BrCl); found: molpeak (M+H)+: 346/348/350/352 (2BrCl).

reactant | sodium nitrite | 4.85 mmol, 0.33 g | N(=O)[O-].[Na+]
reactant | 2-bromo-5-(4-chlorophenyl)pyridin-3-ylamine | 4.41 mmol, 1.25 g | BrC1=NC=C(C=C1N)C1=CC=C(C=C1)Cl | C11H8BrClN2
reactant | HBr | 3.47 mL | Br | BrH
reactant | HBr | 88.16 mmol, 9.90 mL | Br | BrH
solvent | water | 1.9 mL | O | H2O
solvent | water | 9.90 mL | O | H2O
product | 2,3-dibromo-5-(4-chlorophenyl)pyridine | BrC1=NC=C(C=C1Br)C1=CC=C(C=C1)Cl | C11H6Br2ClN
